US05254755
As another example, 2-fluoromethyl-1,1,1,3,3,4,4-heptafluoro-2-hexanol may be prepared by fluorinating commercially available 3,4-hexanedione to form 3,3,4,4-tetrafluorohexane which may then be dehydrogenated to form 3,3,4,4-tetrafluoro-1-hexene. CF3 may then be added to the 3,3,4,4-tetrafluoro-1-hexene to form 2-trifluoromethyl-1,3,3,4,4-pentafluorohexane which may then be dehydrogenated to form 2-trifluoromethyl-1,3,3,4,4-pentafluoro-1-hexene. The 2-trifluoromethyl-1,3,3,4,4-pentafluoro-1-hexene may then be reacted with sulfuric acid and then water to form 2-fluoromethyl-1,1,1,3,3,4,4-heptafluoro-2-hexanol.

reactant | 2-fluoromethyl-1,1,1,3,3,4,4-heptafluoro-2-hexanol | FCC(C(F)(F)F)(C(C(CC)(F)F)(F)F)O | C7H8F8O
reactant | 3,4-hexanedione | CCC(C(CC)=O)=O | C6H10O2
product | 3,3,4,4-tetrafluorohexane | FC(CC)(C(CC)(F)F)F | C6H10F4
